US08017611B2
TFA (5 ml) was added to (2S,4R)-tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-2-(methylcarbamoyl)pyrrolidine-1-carboxylate under argon. The resulting solution was stirred at 25° C. for 1 hour. The solution was evaporated under reduced pressure, adsorbed with ammonia in methanol solution. The crude product was purified by flash chromatography on silica gel eluting with 1 to 6% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford (2S,4R)-4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-N-methyl-pyrrolidine-2-carboxamide (38 mg) as a pale yellow solid. 37% Aqueous formaldehyde (8.42 μl) at 0° C. was added to a stirred solution 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-N-methyl-pyrrolidine-2-carboxamide (38 mg) dissolved in methanol (2 ml) and dichloromethane (2 ml) over a period of 5 minutes under argon. The resulting solution was stirred at 0° C. for 5 minutes. Sodium triacetoxyhydroborate (23.96 mg, 0.11 mmol) was added and the mixture was stirred 5 minutes at 25° C. A solution of ammonia in methanol 7N (1 ml) was added and the mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 1 to 6% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford (2S,4R)-4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-N,1-dimethyl-pyrrolidine-2-carboxamide (30 mg) after overnight stirring in acetonitrile as a solid. NMR Spectrum: (DMSOd6) 2.23-2.32 (m, 1H), 2.35 (s, 3H), 2.47-2.56 (m partially hidden by DMSOd5, 1H), 2.65 (d, 3H), 2.76-2.84 (m, 1H), 3.19-3.27 (m, 1H), 3.47-3.56 (m, 1H), 4.89-4.99 (m, 1H), 7.41-7.50 (m, 2H), 7.67 (bs, 2H), 7.77-7.82 (m, 1H), 7.83-7.87 (m, 1H), 7.90 (q, 1H), 7.97 (s, 1H), 8.37 (s, 1H), 8.44 (d, 1H), 8.53 (d, 1H) Mass spectrum: M+H+ 418

reactant | formaldehyde | 8.42 μl | C=O | CH2O
reactant | 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-N-methyl-pyrrolidine-2-carboxamide | 38 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CC(NC1)C(=O)NC)C=1OC2=C(N1)C=CC=C2 | C21H21N7O2
reactant | Sodium | [Na] | Na
reactant | ammonia | N | H3N
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 7N, 1 ml | CO | CH4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2S,4R)-4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]pyrazol-1-yl]-N,1-dimethyl-pyrrolidine-2-carboxamide | 30 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)[C@@H]1C[C@H](N(C1)C)C(=O)NC)C=1OC2=C(N1)C=CC=C2 | C22H23N7O2
